US06376491B1
2-{4-[3-(Benzyloxycarbonyl-tert-butyl-amino)-propoxy]-3-methyl-benzofuran-2-yl}-oxazole-4-carboxylic acid ethyl ester (20 mg) in methanol (5 ml) was treated with catalytic amount of 10% palladium on carbon under hydrogen atmosphere at room temperature for 18 hours. After filtration, evaporation and purification by silica gel column chromatography using 10:1 mixture of dichloromethane and methanol as an eluent, 2-{4-[3-(tert-butylamino)-propoxy]-3-methyl-benzofuran-2-yl}-oxazole-4-carboxylic acid ethyl ester was obtained as a white solid (8 mg). FAB-MS: m/z 401.

reactant | 2-{4-[3-(Benzyloxycarbonyl-tert-butyl-amino)-propoxy]-3-methyl-benzofuran-2-yl}-oxazole-4-carboxylic acid ethyl ester | 20 mg | C(C)OC(=O)C=1N=C(OC1)C=1OC2=C(C1C)C(=CC=C2)OCCCN(C(C)(C)C)C(=O)OCC2=CC=CC=C2 | C30H34N2O7
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-{4-[3-(tert-butylamino)-propoxy]-3-methyl-benzofuran-2-yl}-oxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(OC1)C=1OC2=C(C1C)C(=CC=C2)OCCCNC(C)(C)C | C22H28N2O5
